US06028223
To 2-methylthio-2-imidazoline.HI (Aldrich) (10 g, 0.041 mole) and triethylamine (4.14 g, 0.041 mole) in CH2Cl2 (50 mL) was added BOC anhydride (Aldrich) (8.94 g, 0.041 mole) at ice bath temperature. The reaction was stirred overnight at room temperature. The CH2Cl2 was washed with H2O (3×), dried over MgSO4, washed with H2O (3×), dried over MgSO4 and removed under vacuum to yield N-BOC-2-methylthio-2-imidazoline (8.1 g) as a clear liquid which turned to a white solid upon standing.

reactant | 2-methylthio-2-imidazoline | CSC=1NCCN1 | C4H8N2S
reactant | HI | 0.041 mole, 10 g | I | HI
reactant | triethylamine | 0.041 mole, 4.14 g | C(C)N(CC)CC | C6H15N
reactant | BOC anhydride | 0.041 mole, 8.94 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
product | N-BOC-2-methylthio-2-imidazoline | 8.1 g | C(=O)(OC(C)(C)C)N1C(=NCC1)SC | C9H16N2O2S
